US05607956
1-(5-Methoxymethyl-4-methyl-2-thiazolyl)-1-(3-thienyl)ethanol
The title compound was prepared by following the general method of Example 36 but using 3-acetylthiophene and 5-methoxymethyl-4-methylthiazole.

reactant | 3-acetylthiophene | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | 5-methoxymethyl-4-methylthiazole | COCC1=C(N=CS1)C | C6H9NOS
product | 1-(5-Methoxymethyl-4-methyl-2-thiazolyl)-1-(3-thienyl)ethanol | COCC1=C(N=C(S1)C(C)(O)C1=CSC=C1)C | C12H15NO2S2
